US09029295B2
To a 3 L volume four-necked flask, magnesium (turnings, 35.31 g), tetrahydrofuran (anhydrous, 600 ml) were added under nitrogen atmosphere at room temperature. After the stirring was started, the mixture was heated to about 30° C. of the internal temperature, and then dibromoethane (25.4 g) was added dropwise over 20 minutes. The resulting mixture was stirred for 30 minutes, and heated to about 50° C. of the internal temperature. To the mixture was added a solution of 2,6-diethyl-4-methylbromobenzene (300.18 g) in tetrahydrofuran (150 ml) dropwise over 2 hours. The resulting mixture was stirred at 50° C. for 1 hour, and then diethyl oxalate (192.5 g) was added dropwise at about 0° C. over 15 minutes. The resulting mixture was stirred at room temperature for 2 hours. To the mixture was added 3.5 weight % of hydrochloric acid (1000 ml) and concentrated hydrochloric acid (60 ml) with cooling. Then, the organic layer was evaporated, and the aqueous layer was extracted with tert-butyl methyl ether. The organic layer was concentrated under reduced pressure to give 320.82 g of ethyl (2,6-diethyl-4-methylphenyl)glyoxylate.

reactant | magnesium | 35.31 g | [Mg] | Mg
reactant | dibromoethane | 25.4 g | BrC(C)Br | C2H4Br2
reactant | 2,6-diethyl-4-methylbromobenzene | 300.18 g | C(C)C1=C(C(=CC(=C1)C)CC)Br | C11H15Br
reactant | diethyl oxalate | 192.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 1000 ml | Cl | ClH
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | ethyl (2,6-diethyl-4-methylphenyl)glyoxylate | 320.82 g | C(C)C1=C(C(=CC(=C1)C)CC)C(C(=O)OCC)=O | C15H20O3
